US08686004B2
Stage 4: 3-[2-(5-Fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-N-(methyl sulphonyl)-1H-pyrazole-5-carboxamide
3-[2-(5-Fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-1H-pyrazole-5-carboxylic acid (0.08 g, 0.25 mmol) and methanesulphonamide (0.024 g, 0.25 mmol) were initially charged in ice-cooled dichloromethane (10 ml). 4-Dimethylaminopyridine (0.006 g, 0.05 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.053 g, 0.275 mmol) were added. The reaction mixture was stirred at 0° C. for 2 h and then at room temperature for 16 h. The solvent was removed under reduced pressure and the residue was chromatographed on silica gel (dichloromethane/ethyl acetate eluent). This gave 0.074 g (72% of theory) of 3-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-N-(methylsulphonyl)-1H-pyrazole-5-carboxamide.

reactant | 3-[2-(5-Fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-1H-pyrazole-5-carboxylic acid | 0.25 mmol, 0.08 g | FC=1C=C(C=NC1)C=1SC(=C(N1)C)C1=NN(C(=C1)C(=O)O)C | C14H11FN4O2S
reactant | methanesulphonamide | 0.25 mmol, 0.024 g | CS(=O)(=O)N | CH5NO2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.275 mmol, 0.053 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-Dimethylaminopyridine | 0.05 mmol, 0.006 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[2-(5-Fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-N-(methyl sulphonyl)-1H-pyrazole-5-carboxamide | FC=1C=C(C=NC1)C=1SC(=C(N1)C)C1=NN(C(=C1)C(=O)NS(=O)(=O)C)C | C15H14FN5O3S2
